US09035059B2
4-[(1E)-3-Cyclopentylprop-1-en-1-yl]-2-fluoroaniline
1,4-Dioxane (5 mL) and water (1.2 mL) were added to 4-bromo-2-fluoroaniline (285 mg, 1.50 mmol), trans-3-(cyclopentyl)propenylboronic acid pinacol ester (425 mg, 1.80 mmol), tris(dibenzylidene acetone)dipalladium (137 mg, 0.15 mmol), tri-2-furylphosphine (210 mg, 0.90 mmol) and cesium carbonate (976 mg, 3.00 mmol). The mixture was heated to an external temperature of 100° C. and stirred for 6 hr, under a nitrogen atmosphere. After cooling, the mixture was diluted with ethyl acetate and washed with brine. The organic layer was dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=9:1) to afford the title compound as a pale yellow oil (302 mg).

reactant | 4-bromo-2-fluoroaniline | 1.50 mmol, 285 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | trans-3-(cyclopentyl)propenylboronic acid pinacol ester | 1.80 mmol, 425 mg | C1(CCCC1)C/C=C/B1OC(C)(C)C(C)(C)O1 | C14H25BO2
reactant | tri-2-furylphosphine | 0.90 mmol, 210 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | cesium carbonate | 3.00 mmol, 976 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylidene acetone)dipalladium | 0.15 mmol, 137 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 1.2 mL | O | H2O
solvent | 1,4-Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-[(1E)-3-Cyclopentylprop-1-en-1-yl]-2-fluoroaniline | 302 mg | C1(CCCC1)C/C=C/C1=CC(=C(N)C=C1)F | C14H18FN
